US07022707B2
[4-(3,5-Dimethyl-isoxazol-4-ylmethoxy)-2,6-difluoro-phenyl]-methanol:
PS-BEMP (1.5 g, 2 eq) was added to a solution of 2,6-difluoro-4-hydroxybenzyl alcohol (400 mg, 1.5 eq) in acetonitrile (4 mL) and the mixture was shaken for 5 min. 4-(Chloromethyl)-3,5-dimethylisoxazole (210 uL, 1.67 mmol) was added and the resultant mixture was shaken at ambient temperature for 16 h. The mixture was filtered, the resin washed with dichloromethane (4×4 mL) and evaporated to afford the desired product (380 mg, 85%) as a white solid: NMR δH(400 MHz; d6-DMSO) 2.20 (3H, s), 2.40 (3H, s), 4.42 (2H, d, J 5.5 Hz), 5.95 (2H, s), 5.08 (1H, t, J 5.5 Hz) and 6.76–6.83 (2H, m); HPLC (XTERRA, 50/80, 220 nm) 94.5% (1.03 min).

reactant | BEMP | 1.5 g, 2 eq | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 2,6-difluoro-4-hydroxybenzyl alcohol | 400 mg, 1.5 eq | FC1=C(CO)C(=CC(=C1)O)F | C7H6F2O2
reactant | 4-(Chloromethyl)-3,5-dimethylisoxazole | 1.67 mmol, 210 uL | ClCC=1C(=NOC1C)C | C6H8ClNO
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | [4-(3,5-Dimethyl-isoxazol-4-ylmethoxy)-2,6-difluoro-phenyl]-methanol | 380 mg, 85% | CC1=NOC(=C1COC1=CC(=C(C(=C1)F)CO)F)C | C13H13F2NO3
